### PR TITLE
[Merged by Bors] - chore(FunctionField): rename vars when constant field is not nec. finite

### PR DESCRIPTION
**Pull request by xgenereux**
Asked by @MichaelStollBayreuth [here](https://github.com/leanprover-community/mathlib4/pull/37447#issuecomment-4223510971).

I've also slightly adjusted the doc to reflect this.

I used the notation which I know from Rosen - Number Theory in Function Field.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/FunctionField.lean [hunk 1]
```diff
@@ -49,189 +49,189 @@ noncomputable section
 
 open scoped nonZeroDivisors Polynomial WithZero
 
-variable (Fq F : Type*) [Field Fq] [Field F]
+variable (F K : Type*) [Field F] [Field K]
 
-/-- `F` is a function field over the finite field `Fq` if it is a finite
-extension of the field of rational functions in one variable over `Fq`.
+/-- `K` is a function field over the (usually finite) field `F` if it is a finite
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FunctionField.lean]: I'd leave out "usually finite" here. The whole file contains no result assuming `[Finite F]`.

File: Mathlib/NumberTheory/FunctionField.lean [hunk 2]
```diff
@@ -49,189 +49,189 @@ noncomputable section
...
-  rw [IsScalarTower.algebraMap_eq Fq[X] (RatFunc Fq) F]
-  exact (algebraMap (RatFunc Fq) F).injective.comp (IsFractionRing.injective Fq[X] (RatFunc Fq))
+theorem algebraMap_injective [Algebra F[X] K] [Algebra (RatFunc F) K]
+    [IsScalarTower F[X] (RatFunc F) K] : Function.Injective (⇑(algebraMap F[X] K)) := by
+  rw [IsScalarTower.algebraMap_eq F[X] (RatFunc F) K]
+  exact (algebraMap (RatFunc F) K).injective.comp (IsFractionRing.injective F[X] (RatFunc F))
 
 /-- The function field analogue of `NumberField.ringOfIntegers`:
-`FunctionField.ringOfIntegers Fq Fqt F` is the integral closure of `Fq[t]` in `F`.
+`FunctionField.ringOfIntegers F Ft K` is the integral closure of `F[t]` in `K`.
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FunctionField.lean]:
```suggestion
`FunctionField.ringOfIntegers F K` is the integral closure of `F[X]` in `K`.
```
There are only two explicit arguments.

File: Mathlib/NumberTheory/FunctionField.lean [hunk 3]
```diff
@@ -242,20 +242,20 @@ attribute [-instance] RatFunc.valuedRatFunc
...
-/-- The uniform space structure on `RatFunc Fq` coming from the valuation at infinity. -/
-scoped instance : UniformSpace (RatFunc Fq) := (inftyValuedFqt Fq).toUniformSpace
+/-- The uniform space structure on `RatFunc F` coming from the valuation at infinity. -/
+scoped instance : UniformSpace (RatFunc F) := (inftyValuedFqt F).toUniformSpace
 
-/-- The completion `Fq((t⁻¹))` of `Fq(t)` with respect to the valuation at infinity. -/
-def _root_.FunctionField.FqtInfty := UniformSpace.Completion (RatFunc Fq)
-deriving Field, Algebra (RatFunc Fq), Coe (RatFunc Fq), Inhabited
+/-- The completion `F((t⁻¹))` of `F(t)` with respect to the valuation at infinity. -/
+def _root_.FunctionField.FqtInfty := UniformSpace.Completion (RatFunc F)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FunctionField.lean:249]: Similarly here. `InftyCompletionRatFunc`?

File: Mathlib/NumberTheory/FunctionField.lean [hunk 4]
```diff
@@ -18,19 +18,19 @@ This file defines a function field and the ring of integers corresponding to it.
...
+- `FunctionField.inftyValuation` : The place at infinity on `F(t)` is the nonarchimedean
+  valuation on `F(t)` with uniformizer `1/t`.
+- `FunctionField.FqtInfty` : The completion `F((t⁻¹))` of `F(t)` with respect to the
   valuation at infinity.
 
 ## Implementation notes
 The definitions that involve a field of fractions choose a canonical field of fractions,
-but are independent of that choice. We also omit assumptions like `Finite Fq` or
-`IsScalarTower Fq[X] (FractionRing Fq[X]) F` in definitions,
+but are independent of that choice. We also omit assumptions like `Finite F` or
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FunctionField.lean]:
```suggestion
but are independent of that choice. We also omit assumptions like
```
(see below [or above] -- no declaration in the file uses finiteness)

**Review by MichaelStollBayreuth — COMMENTED** [review]
Looks good, modulo a few fixes in docstrings and fixing some names.

File: Mathlib/NumberTheory/FunctionField.lean (hunk 3 above)
Comment (xgenereux) [reply Mathlib/NumberTheory/FunctionField.lean:249]: But then this shouldn't be in this file right? I feel like the `InftyValuation` should be in the `RatFunc` folder no?

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/FunctionField.lean:249]: I guess so. (And at some point, it would make sense to move the current content of this file out of `NumberTheory` into `FieldTheory`. I think this place should be for material that is specifically about function fields over finite fields. But don't feel obliged to do that now, too!)

Comment (xgenereux) [reply Mathlib/NumberTheory/FunctionField.lean:249]: Would you like me to do this move in this PR or in another?
I am asking because all of these lemmas will have to change name (out of the FunctionField namespace) and will need to be deprecated.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/FunctionField.lean:249]: It is probably cleaner to do that in a separate PR. In any case, thanks for doing this!

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
